US08404719B2
N-(2,6-difluorophenyl)-3-[(8aR)-hexahydropyrrolo[1,2-α]pyrazin-2(1H)-ylcarbonyl]benzenesulfonamide
To 3-{[(2,6-difluorophenyl)amino]sulfonyl}benzoic acid (0.96 g, 3.06 mmol) and 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) (1.28 g, 3.37 mmol) in N,N-dimethylacetamide (7.4 mL) and 2-methyltetrahydrofuran (22 mL) was added (R)-octahydropyrrolo[1,2-α]pyrazine (0.54 g, 4.28 mmol). The reaction was stirred at ambient temperature for 5.5 hours, and then it was diluted with 2-methyltetrahydrofuran (15 mL). The organic solution was washed with 6% NaHCO3/6% NaCl (35 mL), and the aqueous layer was extracted with 2-methyltetrahydrofuran (50 mL). The organic layer was washed with 6% NaHCO3/6% NaCl (50 mL) and 1:1 saturated NaCl/water (6×15 mL), and then it was concentrated. The residue was concentrated from ethanol (2×10 mL) to give the title compound.

reactant | 3-{[(2,6-difluorophenyl)amino]sulfonyl}benzoic acid | 3.06 mmol, 0.96 g | FC1=C(C(=CC=C1)F)NS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C13H9F2NO4S
reactant | 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) | 3.37 mmol, 1.28 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (R)-octahydropyrrolo[1,2-α]pyrazine | 4.28 mmol, 0.54 g | C1[C@@H]2N(CCN1)CCC2 | C7H14N2
solvent | N,N-dimethylacetamide | 7.4 mL | CN(C(C)=O)C | C4H9NO
solvent | 2-methyltetrahydrofuran | 22 mL | CC1OCCC1 | C5H10O
solvent | 2-methyltetrahydrofuran | 15 mL | CC1OCCC1 | C5H10O
product | N-(2,6-difluorophenyl)-3-[(8aR)-hexahydropyrrolo[1,2-α]pyrazin-2(1H)-ylcarbonyl]benzenesulfonamide | FC1=C(C(=CC=C1)F)NS(=O)(=O)C1=CC(=CC=C1)C(=O)N1C[C@@H]2N(CC1)CCC2 | C20H21F2N3O3S
